US07683176B2
4-Chloro-N-{5-chloro-2-[4-(1H-pyrazol-4-yl)-4H-[1,2,4]triazol-3-yl]-pyridin-3-yl}-3-trifluoromethyl-benzenesulfonamide
The title compound was prepared according to general Method B. Thusly, a mixture of trimethylorthoformate (53 mg, 0.50 mmol), acetonitrile (1.5 mL), and 1H-pyrazol-4-ylamine (83 mg, crude, 1.0 mmol) was stirred at 120° C. for 2 hours. After the mixture was cooled to room temperature, 4-Chloro-N-(5-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-3-trifluoromethyl-benzenesulfonamide (42.8 mg, 0.10 mmol) and acetic acid (0.2 mL) was added and the resultant mixture was stirred at 120° C. for 2 hours. After evaporation of solvent under reduced pressure, the residue was further purified through automated normal-phase chromatography and dried (Lyophilizer) to afford title compound. 1H NMR: (DMSO-d6, ppm): 8.90 (s, 1H), 8.08 (m, 2H), 7.90 (m, 2H), 7.80 (m, 2H), 7.75 (m, 1H). MS (ES) [M+H]+ expected 504.0, found 504.0.

reactant | trimethylorthoformate | 0.50 mmol, 53 mg | COC(OC)OC | C4H10O3
reactant | acetonitrile | 1.5 mL | C(C)#N | C2H3N
reactant | 1H-pyrazol-4-ylamine | 1.0 mmol, 83 mg | N1N=CC(=C1)N | C3H5N3
reactant | 4-Chloro-N-(5-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-3-trifluoromethyl-benzenesulfonamide | 0.10 mmol, 42.8 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)NN)C(F)(F)F | C13H9Cl2F3N4O3S
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
product | 4-Chloro-N-{5-chloro-2-[4-(1H-pyrazol-4-yl)-4H-[1,2,4]triazol-3-yl]-pyridin-3-yl}-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C1=NN=CN1C=1C=NNC1)C(F)(F)F | C17H10Cl2F3N7O2S
